US07868177B2
A resealable pressure vial was charged with 5,6-difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine (0.14 g, 0.28 mmol), 3-(4-methylpiperazin-1-yl)propan-1-amine (0.18 g, 1.13 mmol), and 2-propanol (1.89 ml, 0.15 M). The reaction vessel was sealed and the mixture stirred at 70° C. for 16 h. The reaction mixture was cooled to RT, diluted with DCM, and washed with Aq. NaHCO3. The organic layer was collected, dried over Na2SO4, and concentrated to afford brown residue, which was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure 5,6-difluoro-N-(4-(3-(2-(3-(4-methylpiperazin-1-yl)propylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine as a yellow solid. MS m/z=572.2 [M+H]+. Calc'd for C30H31F2N9O: 571.62.

reactant | 5,6-difluoro-N-(4-(3-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | 0.28 mmol, 0.14 g | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)S(=O)(=O)C)C=C1F | C23H16F2N6O3S
reactant | 3-(4-methylpiperazin-1-yl)propan-1-amine | 1.13 mmol, 0.18 g | CN1CCN(CC1)CCCN | C8H19N3
reactant | 2-propanol | 0.15 M, 1.89 ml | CC(C)O | C3H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5,6-difluoro-N-(4-(3-(2-(3-(4-methylpiperazin-1-yl)propylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NCCCN2CCN(CC2)C)C=C1F | C30H31F2N9O
